US06197729B1
e) dimethyl (cis-4-aminocyclohexyl)malonate
23.0 g of dimethyl (cis-4-benzylaminocyclohexyl)malonate were dissolved in 200 ml of methanol and hydrogenated at 30 bar and 50° C. in the presence of 2 g of palladium catalyst (5% on carbon). Removal of the catalyst by filtration and subsequent concentration gave 16.0 g of the title product as a colourless oil.

reactant | dimethyl (cis-4-benzylaminocyclohexyl)malonate | 23.0 g | C(C1=CC=CC=C1)N[C@H]1CC[C@H](CC1)C(C(=O)OC)C(=O)OC | C18H25NO4
solvent | methanol | 200 ml | CO | CH4O
catalyst | palladium | 2 g | [Pd] | Pd
product | dimethyl (cis-4-aminocyclohexyl)malonate | 16.0 g | N[C@H]1CC[C@H](CC1)C(C(=O)OC)C(=O)OC | C11H19NO4
